US04207326
A mixture of 50 g (0.156 mol) of 3,5-dimethyl-1-hexadecylpyrazole, 200 ml of sulfolane and 19 g (0.156 mol) of allyl bromide is stirred and kept at a temperature of 80° C. for 24 hrs. The reaction mixture is allowed to cool and 100 ml of ether are added. The mixture is stirred for another 2 hrs and the crystalate is then filtered off, washed with ether, and vacuum dired at 40° C./12 Torr. Recrystallization from 200 ml of ethyl acetate yields 39.6 g of 2-allyl-3,5-dimethyl-1-hexadecyl-pyrazolium bromide; m.p. 99°-100° C.

reactant | 3,5-dimethyl-1-hexadecylpyrazole | 0.156 mol, 50 g | CC1=NN(C(=C1)C)CCCCCCCCCCCCCCCC | C21H40N2
reactant | sulfolane | 200 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | allyl bromide | 0.156 mol, 19 g | C(C=C)Br | C3H5Br
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-allyl-3,5-dimethyl-1-hexadecyl-pyrazolium bromide | 39.6 g | [Br-].C(C=C)N1[N+](=C(C=C1C)C)CCCCCCCCCCCCCCCC | InChI=1S/C24H45N2.BrH/c1-5-7-8-9-10-11-12-13-14-15-16-17-18-19-21-26-24(4)22-23(3)25(26)20-6-2;/h6,22H,2,5,7-21H2,1,3-4H3;1H/q+1;/p-1
